data/oMe_Silver.jsonl
{"reaction_id": "NR-203_1-CC_2-c1ccccc1C","level": "medium","name": "Nef Reaction","reactants_smiles": ["C(CC)(c1ccccc1C)([N+](=O)[O-])"],"products_smiles": ["O=C(CC)(c1ccccc1C)"],"conditions": "H3O+","mechanism_step_nums": 7,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(CC)(c1ccccc1C)=N([O-])=O","step_weight": 0,"rationale": "Protonation of the nitro group oxygen increases electrophilicity of nitrogen, facilitating tautomerization to the nitronic acid form under acidic conditions."},{"step": 2,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(CC)(c1ccccc1C)=[N+]([O-])O","step_weight": 0,"rationale": "Further proton transfer stabilizes the nitronic acid tautomer by delocalizing positive charge onto nitrogen, making it more susceptible to nucleophilic attack."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(CC)(c1ccccc1C)=[N+](O)O","step_weight": 0,"rationale": "Protonation of the hydroxyl oxygen enhances the leaving ability of water in later steps and increases the electrophilicity of the nitrogen center."},{"step": 4,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(CC)(c1ccccc1C)([NH+](O)O)[OH2+]","step_weight": 0,"rationale": "Water, abundant in acidic medium, attacks the electrophilic nitrogen-carbon center, driven by the positive charge and resonance stabilization of the intermediate."},{"step": 5,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(CC)(c1ccccc1C)([NH+](O)O)[OH]","step_weight": 0,"rationale": "Proton transfer from the coordinated water to the nitronic hydroxyl group prepares for elimination by generating a better leaving group."},{"step": 6,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "[OH+]=C(CC)(c1ccccc1C)","step_weight": 0,"rationale": "Elimination of the protonated hydroxylamine fragment occurs because water is a good leaving group under acidic conditions, forming an oxonium ion intermediate."},{"step": 7,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "O=C(CC)(c1ccccc1C)","step_weight": 0,"rationale": "Loss of a proton from the oxonium ion yields the neutral carbonyl product, driven by the thermodynamic stability of the C=O bond."}],"description": "Under acidic conditions, the nitro group of the nitroalkane is sequentially protonated and rearranged to form a nitronic acid, which undergoes hydration and elimination steps. Proton transfers and good leaving group formation drive the conversion to the corresponding carbonyl compound."}
{"reaction_id": "NR-138_1-c1ccc(F)cc1_2-C#N_3-CC_4-c1ccc(Cl)cc1_5-C(Br)(Br)Br_6-C","name": "Mannich Reaction","level": "medium","reactants_smiles": ["C(C(=O)c1ccc(F)cc1)(C#N)(CC)","C(=O)(c1ccc(Cl)cc1)(C(Br)(Br)Br)","NC"],"products_smiles": ["C(C(=O)c1ccc(F)cc1)(C#N)(CC)C(c1ccc(Cl)cc1)(C(Br)(Br)Br)NC"],"conditions": "Acid","mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C(=[OH+])c1ccc(F)cc1)(C#N)","rationale": "Acid protonates the carbonyl oxygen, increasing electrophilicity of the carbonyl carbon via inductive and resonance effects, facilitating subsequent enolization."},{"step": 2,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(CC)(C#N)=C(O)c1ccc(F)cc1","rationale": "Proton transfer to the α-carbon promotes enol formation, stabilized by resonance between the α-carbon and the protonated carbonyl."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(C(=[OH+])c1ccc(F)cc1)(C#N)(CC)C(c1ccc(Cl)cc1)(C(Br)(Br)Br)NC","rationale": "The nucleophilic enol attacks the electrophilic iminium carbon, favored by conjugation and the strong electron-withdrawing effect of the protonated nitrogen."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C(=O)c1ccc(F)cc1)(C#N)(CC)C(c1ccc(Cl)cc1)(C(Br)(Br)Br)NC","rationale": "Deprotonation restores neutrality, yielding the stable β-amino carbonyl product under thermodynamically favorable conditions."}],"description": "Under acidic conditions, the carbonyl group is activated toward nucleophilic attack via protonation, enabling enolization of the ketone. The enol then attacks the iminium ion formed from the aldehyde and amine, yielding the β-amino carbonyl product after deprotonation."}
